data/specific_train_final.csv
"CC1=CC(=C([C:21](=[CH:20]1)C)O)C.[N+](=O)([O-])[O:10]>>CC1=CC(=C([C:21]([CH:20]1[O:10][N+](=O)[O-])C)O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCCC(C(C)O)[O:20][O:21]N=O>>CCCC(C(C)O)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CCO)[O:20][O:21][O]>>CC(CCO)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][C:21]1(C=CC=C([C:22]1C)C)O.[O:10][O]>>[H:20][O:10][O].CC1=CC=C[C:21](=[C:22]1C)O 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CCCC(C)(CC)[O:20][O:21]N=O>>CCCC(C)(CC)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:21]1(C2CC[C:10]([CH:20]1C2)CO)C>>C[C:21](C1CC[C:10](=[CH:20]C1)CO)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC(C)C(C)[O:20][O:21]N=O>>CC(C)C(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=CC[O:20][O:21]N=O)CO[N+](=O)[O-]>>CC(=CC[O:20])CO[N+](=O)[O-].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)C(=O)O[O:20].O[O:10]>>CC(C)C(=O)O[O:20][O:10]O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](=O)C=C(C)CO[N+](=O)[O-].[OH:10]>>[H:20][OH:10].CC(=C[C:21]=O)CO[N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC([CH:10]Cl)Cl.[O:20][O]>>CC([CH:10]([O:20][O])Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=C(C=C(C=C1)C[O:20])C.[N+:10](=O)[O-]>>CC1=C(C=C(C=C1)C[O:20][N+:10](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C[O:20][O:21]N=O)O>>CC(C)(C[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C(Cl)(Cl)Cl)OO[O:20][N+:21](=O)[O-]>>C(C(Cl)(Cl)Cl)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCOC(C)[O:20][O:21]OO>>CCOC(C)[O:20].OO[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CO[N+](=O)[O-])(C(COO)O)[O:20].[N+:10](=O)[O-]>>CC(CO[N+](=O)[O-])(C(COO)O)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(=O)C[CH2:10].[O:20][O]>>CCCC(=O)C[CH2:10][O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC12CC(C(C=C1)(C)O[O:20])OO2.[N:10]=O>>CCC12CC(C(C=C1)(C)O[O:20][N:10]=O)OO2 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:10](Cl)Cl.[O:20][O]>>C[C:10]([O:20][O])(Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:21]1=[C:20](C(C(C=C1)(C)O[O:10])O)C>>C[C:21]1C=CC2(C([C:20]1(C)[O:10]O2)O)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)C(=O)[O:20][O:21]N=O>>CC(C)C(=O)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC12C(C=CC(C1O)(OO2)C)O[O:10].[O:20][N+]([O-])=O>>CCC12C(C=CC(C1O)(OO2)C)O[O:10][O:20][N+]([O-])=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC12C=C[CH:10]C(C1O)OO2.[O:20][O]>>CCC12C=C[CH:10](C(C1O)OO2)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][CH2:21]OC=O.[OH:10]>>[H:20][OH:10].[CH2:21]OC=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC(OCCO)[O:20][O:21]OO>>CCCC([O:20])OCCO.OO[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][CH2:21]C(C)(C)O.[OH:10]>>[H:20][OH:10].CC(C)([CH2:21])O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
CCC12CC(C(C=C1)(C)[O])OO2.[N:10](=O)[O:20]>>CCC12CC(C(C=C1)(C)[O])OO2.[N+:10](=O)[O-:20] 10-20,Room Temperature,Propagation,ha resonance
"[H:20][O:21][O].CCCCC(CO[O:10])O[N+](=O)[O-]>>[H:20][O:10]OCC(CCCC)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21]O.CCC(COC(=O)C)O[O:10]>>[H:20][O:10]OC(CC)COC(=O)C.O[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CO)(C(C[O:20][O:21]N=O)O)O[N+](=O)[O-]>>CC(CO)(C(C[O:20])O)O[N+](=O)[O-].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C(C(Cl)Cl)O[O:20].[N:10]=O>>C(C(Cl)Cl)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C(C=O)[O:20][O:21]N=O)O[N+](=O)[O-]>>CC(C(C=O)[O:20])O[N+](=O)[O-].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C(C=O)O)O[O:20].[N:10]=O>>CC(C(C=O)O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(CO[N+](=O)[O-])([CH:10][O:20][OH:21])O>>CC(CO[N+](=O)[O-])([CH:10]=[O:20])O.[OH:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CCC(CC)[O:20][O:21][O]>>CCC(CC)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"COC(=O)OC[O:20][O:21][O].[N+](=O)[O-]>>COC(=O)OC[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=O)OC(C)(C)O[O:20].[N+](=O)([O-])[O:10]>>CC(=O)OC(C)(C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
